US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3-diphenylmethylaminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
To a solution of (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (22 mg, 0.07 mmol), in 0.25 mL of dichloromethane was added benzophenone imine (1 eq), followed by 1 drop of 1N hydrochloric acid. The mixture was stirred at room temperature for 1 h, concentrated, and 0.5 mL of methanol and sodium cyanoborohydride (0.14 mmol) followed by two drops of glacial acetic acid was added, and the mixture was stirred for 16 h, diluted with ethyl acetate, rinsed with saturated sodium bicarbonate solution, and brine. The organic layer was dried over sodium sulfate, concentrated and chromatographed on silica gel (ethyl acetate eluent) to give, after trituration of the resulting oil from ether/hexanes, 28 mg (83%) of the title compound as a white solid. mp 109°-111°. FDMS: m/e=486. α[D]589 =+46.90 (c=0.49, methanol).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.07 mmol, 22 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)N)C)=O | C21H24N2O
reactant | benzophenone imine | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | methanol | 0.5 mL | CO | CH4O
reactant | sodium cyanoborohydride | 0.14 mmol | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 0.25 mL | ClCCl | CH2Cl2
catalyst | hydrochloric acid | 1N, 1 drop | Cl | ClH
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-diphenylmethylaminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 28 mg, 83% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)NC(C3=CC=CC=C3)C3=CC=CC=C3)C)=O | C34H34N2O
